* C:\users\crossover\Desktop\My Mac Desktop\rf_dummy_50ohm_20W\4_Electrical\rev1\sim\peak_detector_diode_comp.asc
C1 out 0 5.6n
D1 in out BAT46WJ
V1 in 0 SINE(0 45 {f})
C2 out 0 5.6n
R3 out N001 100k
R4 N001 0 10k
C3 N001 0 10p
R1 out D 100k
D2 D 0 BAT46WJ
.model D D
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.dio
.param f=10Meg
.tran 100u
.temp 40
.backanno
.end
